US06124313
a) 8-[2-(2-Chloroethoxycarbonylamino)-6-methylbenzylamino]-2,3-dimethylimidazo[1,2-a]pyridine
2-Chloroethyl chloroformate (12.4 g, 81 mmol) dissolved in dichloromethane (40 ml) is added dropwise at RT, during the course of about 30 min, to a solution of 8-(2-amino-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine (19.65 g, 70 mmol) in anhydrous dichloromethane (600 ml). The mixture is then stirred at RT for 16 h and then extracted with sodium hydrogen carbonate (4×200 ml). After extraction of the aqueous phases with dichloromethane (200 ml), the combined organic extracts are washed with water (2×200 ml), dried over magnesium sulfate and concentrated. The crude product which remains (33.9 g) is used directly for the further reaction in Example 1b.

reactant | 2-Chloroethyl chloroformate | 81 mmol, 12.4 g | ClC(=O)OCCCl | C3H4Cl2O2
reactant | 8-(2-amino-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine | 70 mmol, 19.65 g | NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C17H20N4
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 8-[2-(2-Chloroethoxycarbonylamino)-6-methylbenzylamino]-2,3-dimethylimidazo[1,2-a]pyridine | ClCCOC(=O)NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C20H23ClN4O2
